US06492421B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-4-[2-(piperidin-1-yl)ethoxy]-L-phenylalanine
The methyl ester was prepared by Mitsunobu reaction of N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester with piperidineethanol following the procedure described for the preparation of Example 20 (284). The title compound was prepared using the procedure described in Method 7 as a solid, mp=102-106° C.

reactant | N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)O)=O | C22H26N2O6S
reactant | piperidineethanol | N1(CCCCC1)CCO | C7H15NO
product | N-(Toluene-4-sulfonyl)-L-prolyl-4-[2-(piperidin-1-yl)ethoxy]-L-phenylalanine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC2=CC=C(C=C2)OCCN2CCCCC2)C(=O)O)CCC1)C | C28H37N3O6S
